US08058431B2
3) 5-Methoxy-2-methylamino-benzamide
1.50 g (7.24 mmol) 6-Methoxy-1-methyl-1H-benzo(d)(1,3)oxazine-2,4-dione were dissolved in 20 ml tetrahydrofuran and 10.0 ml ammonia (25%) added at 0° C. The solution was stirred for 30 min at 0° C. and for 30 min at room temperature. THF was distilled under vacuum and the remaining suspension was neutralized with diluted hydrogen chloride acid. The product was isolated by filtration.

reactant | 6-Methoxy-1-methyl-1H-benzo(d)(1,3)oxazine-2,4-dione | 7.24 mmol, 1.50 g | COC1=CC2=C(N(C(OC2=O)=O)C)C=C1 | C10H9NO4
reactant | ammonia | 10.0 ml | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-Methoxy-2-methylamino-benzamide | COC=1C=CC(=C(C(=O)N)C1)NC | C9H12N2O2
